US05468742
A solution of 4.6 g of ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate in 20 ml of chloroform is added dropwise at room temperature to a solution of 2 g of potassium fluoride in a solvent mixture of 3 ml of water, 25 ml of chloroform and 50 ml of dimethylformamide. The mixture is stirred for 1 hour at approx. 20° C., the reaction mixture is then treated with more chloroform and extracted several times by shaking with water, and the organic phase is dried and concentrated. The residue obtained is recrystallised from methanol. 3.4 g of ethyl 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are obtained (87% of theory).

reactant | ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate | 4.6 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)C#C[Si](C)(C)C)F)F)=O)C(=O)OCC | C23H19F4NO3Si
reactant | potassium fluoride | 2 g | [F-].[K+]
reactant | water | 3 ml | O | H2O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(2,4-difluorophenyl)-8-ethinyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.4 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)C#C)F)F)=O)C(=O)OCC | C20H11F4NO3
